US07696223B2
c) 2-Cyano-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 2-bromo-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (1000 mg), Zn(CN)2 (150 mg), Zn dust (17 mg), Pd2(dba)3 (59 mg), dppf (71 mg) in DMA (8 mL) was heated to 120° C. for 90 min; then the mixture was partitioned between EtOAc and water, the organic phase was then washed with sat. NaCl solution, dried over anhydrous sodium sulfate, filtered and concentrated sequentially to give a residue, which was purified with column to give desired title compound (270 mg). The title compound, ESI MS (m/z): 340 (M+H)+.

reactant | 2-bromo-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 1000 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2)Br)CC2=CC(=CC=C2)F)O | C17H14BrFN2O3
reactant | DMA | 8 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zn(CN)2 | 150 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 17 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 59 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 71 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-Cyano-1-(3-fluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 270 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2)C#N)CC2=CC(=CC=C2)F)O | C18H14FN3O3
